US09428528B2
Step 3 Preparation of (4S,5R)-5-[4-(6-Ethylcarbamoyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylicacid tert-butyl ester
To a stirred solution of 5-[4-((4S,5R)-3-tert-Butoxycarbonyl-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl)-phenyl]-pyridine-2-carboxylic acid (0.3 g, 0.697 mmol) in dry tetrahydrofuran (5 mL) is added ethyl amine (0.038 g, 0.837 mmol), diisopropylamine (0.27 g, 2.092 mmol) and 50% solution of triphenyl phosphine in ethyl acetate (0.332 g, 0.66 mL, 1.046 mmol) and stirred at room temperature for 14 hours. Diluted with water and ethyl acetate, organic layer is separated and aqueous layer is extracted with ethyl acetate. Combined organic layer is dried over sodium sulphate, solvent is evaporated in vacuo to obtained crude material purified by column chromatography eluting in 3% methanol in CH2Cl2 to afford title compound (0.21 g): 1H-NMR (400 MHz, DMSO-d6): δ: 1.13 (t, 3H, J=6.98 Hz), 1.44 (s, 9H), 1.51 (s, 3H), 1.64 (s, 3H), 3.34-3.37 (m, 2H), 3.84-3.91 (m, 1H), 4.47-4.59 (m, 1H), 4.76-4.95 (m, 2H), 5.15 (d, 1H, J=7.24 Hz), 7.61 (d, 2H, J=8.28 Hz), 7.83 (d, 2H, J=8.24 Hz), 8.09 (d, 1H, J=8.20 Hz), 8.29 (dd, 1H, J=8.08 Hz, J=2.2 Hz), 8.84 (t, 1H, J=5.68 Hz), 8.93 (d, 1H, J=1.88 Hz) LC-MS (m/z): [M+H]=458.1.

reactant | 5-[4-((4S,5R)-3-tert-Butoxycarbonyl-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl)-phenyl]-pyridine-2-carboxylic acid | 0.697 mmol, 0.3 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=CC(=NC1)C(=O)O)(C)C | C23H27FN2O5
reactant | ethyl amine | 0.837 mmol, 0.038 g | C(C)N | C2H7N
reactant | diisopropylamine | 2.092 mmol, 0.27 g | C(C)(C)NC(C)C | C6H15N
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.046 mmol, 0.66 mL, 0.332 g | C(C)(=O)OCC | C4H8O2
product | (4S,5R)-5-[4-(6-Ethylcarbamoyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylicacid tert-butyl ester | 0.21 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)C(NCC)=O)(C)C | C25H32FN3O4
